US08871753B2
Step B: tert-Butyl [3-bromo-5-(hydroxymethyl)phenyl]carbamate
A solution of 3-bromo-5-[(tert-butoxycarbonyl)amino]benzoic acid (13.6 g, 43.1 mol) in tetrahydrofuran (44 mL) at 0° C. was treated with 1 M borane in THF (64.6 mL, 64.6 mmol) dropwise and stirred at 20° C. for 1 h. The reaction mixture was concentrated, diluted with ethyl acetate (200 mL), and washed with 1 M HCl (100 mL) and brine (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product as a colorless oil that was used without further purification. LCMS for C12H16BrNO3Na (M+Na)+: m/z=323.9, 325.9.

reactant | 3-bromo-5-[(tert-butoxycarbonyl)amino]benzoic acid | 43.1 mol, 13.6 g | BrC=1C=C(C(=O)O)C=C(C1)NC(=O)OC(C)(C)C | C12H14BrNO4
reactant | borane | 1 M | B | BH3
solvent | tetrahydrofuran | 44 mL | O1CCCC1 | C4H8O
solvent | THF | 64.6 mmol, 64.6 mL | C1CCOC1 | C4H8O
product | tert-Butyl [3-bromo-5-(hydroxymethyl)phenyl]carbamate | BrC=1C=C(C=C(C1)CO)NC(OC(C)(C)C)=O | C12H16BrNO3
